** sch_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer_TB_tran.sch
**.subckt buffer_TB_tran
Vdd VDD GND 5
R1 VDD Vout 1mega m=1
R2 VDD_X1 Vout_Layout 1mega m=1
Vin Vin GND pulse(0 5 0 1n 1n 5n 15n)
Vdd_X1 VDD_X1 GND 5
x9 Vin Vout_Layout VDD_X1 GND buffer_x1
X10 Vin Vout VDD GND buffer
**** begin user architecture code



* ngspice commands
.include ~/ETRI050_DesignKit/devel/tech/05cmos_model_240201.lib
*.dc vin 0 5 0.01
.tran 0.0001n 50n
.save all



**** end user architecture code
**.ends

* expanding   symbol:  /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer_x1.sym # of pins=4
** sym_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer_x1.sym
.include ~/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer_x1.spice

* expanding   symbol:  /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer.sym # of pins=4
** sym_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer.sym
** sch_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer.sch
.subckt buffer A Y VDD GND
*.ipin A
*.opin Y
*.iopin VDD
*.iopin GND
X6 A net1 VDD GND inverter
X1 net1 net2 VDD GND inverter
X5 net2 net3 VDD GND inverter
X2 net3 Y VDD GND inverter
.ends


* expanding   symbol:  /home/goodkook/ETRI050_DesignKit/Tutorials/1-1_Inverter_XSchem/inverter.sym # of pins=4
** sym_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-1_Inverter_XSchem/inverter.sym
** sch_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-1_Inverter_XSchem/inverter.sch
.subckt inverter A Y VDD GND
*.ipin A
*.opin Y
*.iopin VDD
*.iopin GND
M2 Y A VDD VDD pfet w=2.0u l=0.6u m=1
M1 Y A GND GND nfet w=2.0u l=0.6u m=1
.ends

.GLOBAL GND
.end
