** sch_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer_top.sch
**.subckt buffer_top
X1 net1 net2 net3 net4 buffer
**.ends

* expanding   symbol:  /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer.sym # of pins=4
** sym_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer.sym
** sch_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-3_Inverter_Netgen/buffer.sch
.subckt buffer A Y VDD GND
*.ipin A
*.opin Y
*.iopin VDD
*.iopin GND
X6 A net1 VDD GND inverter
X1 net1 net2 VDD GND inverter
X5 net2 net3 VDD GND inverter
X2 net3 Y VDD GND inverter
.ends


* expanding   symbol:  /home/goodkook/ETRI050_DesignKit/Tutorials/1-1_Inverter_XSchem/inverter.sym # of pins=4
** sym_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-1_Inverter_XSchem/inverter.sym
** sch_path: /home/goodkook/ETRI050_DesignKit/Tutorials/1-1_Inverter_XSchem/inverter.sch
.subckt inverter A Y VDD GND
*.ipin A
*.opin Y
*.iopin VDD
*.iopin GND
M2 Y A VDD VDD pfet w=2.0u l=0.6u m=1
M1 Y A GND GND nfet w=2.0u l=0.6u m=1
.ends

.end
